* C:\Users\caranda\Desktop\Repositorios\PonchosEDU-CIAA\DataloggerSMNViento\SimulacionesLTSPICE\Version3CircuitoTensionTunnel.asc
V1 vPWM 0 PULSE(0 3.3 0 10n 10n 100u 100u 0)
R1 N005 vPWM 10k
C1 N005 0 100n
V2 VCC5V 0 12
R2 vout N005 10k
C2 vout 0 100n
R3Variable VadcTunnel N002 3000
R4 N002 0 15k
XU1 vout N002 VCC5V 0 VadcTunnel LMX58_LM2904
XU2 VadcTunnel N003 VCC5V 0 N003 LMX58_LM2904
R3 VadcTunnel 0 1Meg
D1 N004 N001 1N5819
D2 0 N004 1N5819
V3 N001 0 3.3
R11 VAdcCIAA 0 1.2Meg
R5 N004 N003 1.6k
R7 VAdcCIAA N004 1k
R6 N004 0 33k
.model D D
.lib C:\Users\caranda\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 22m 0
.include libraryTesisModelSpice.lib
.MODEL BD136_138_140 PNP ( IS=2.9537E-13 BF=201.4 NF=1.0 BR=23.765 NR=1.021 ISE=1.8002E-13 NE=1.5 ISC=7.0433E-12 + NC=1.38 VAF=137.0 VAR=8.41 IKF=1.0993 IKR=0.10 RB=1.98 RBM=0.01 IRB=0.011 RE=0.1109 RC=0.01 CJE=2.1982E-10 + VJE=0.7211 MJE=0.3685 FC=0.5 CJC=6.8291E-11 VJC=0.5499 MJC=0.3668 XCJC=0.5287 XTB=1.4883 EG=1.2343 XTI=3.0)
.MODEL BD135_137_139 NPN ( IS=2.3985E-13 BF=244.9 NF=1.0 BR=78.11 NR=1.007 ISE=1.0471E-14 NE=1.2 ISC=1.9314E-11 + NC=1.45 VAF=98.5 VAR=7.46 IKF=1.1863 IKR=0.1445 RB=2.14 RBM=0.001 IRB=0.031 RE=0.0832 RC=0.01 CJE=2.92702E-10 + VJE=0.67412 MJE=0.3300 FC=0.5 CJC=4.8831E-11 VJC=0.5258 MJC=0.3928 XCJC=0.5287 XTB=1.1398 EG=1.2105 XTI=3.0)
.backanno
.end
